US08389511B2
6-Bromo-2′,3′,5′,6′-tetrahydrospiro[1,4-benzoxazine-2,4′-pyran]-3(4H)-one
To a solution of 4-bromo-2-nitrophenol (5.0 g) in tetrahydrofuran (80 ml) was added sodium hydroxide powder (7.8 g), and the mixture was stirred at room temperature for 15 minutes, and further thereto was added tetrahydro-4H-pyran-4-one (180 ml). Under ice-cooling, chloroform (7.3 ml) was added thereto dropwise, and the mixture was stirred for one hour. Then, the mixture was further stirred at room temperature overnight. To the reaction mixture was added 2N hydrochloric acid, and the mixture was extracted with chloroform. The organic layer was washed with a saturated aqueous sodium chloride solution, dried over sodium sulfate, filtered, and concentrated under reduced pressure. Using the obtained residue, the title compound (1.6 g) was obtained in a similar manner to Reference Example 2.

reactant | 4-bromo-2-nitrophenol | 5.0 g | BrC1=CC(=C(C=C1)O)[N+](=O)[O-] | C6H4BrNO3
reactant | sodium hydroxide | 7.8 g | [OH-].[Na+]
reactant | tetrahydro-4H-pyran-4-one | 180 ml | O1CCC(CC1)=O | C5H8O2
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | chloroform | 7.3 ml | C(Cl)(Cl)Cl | CHCl3
product | 6-Bromo-2′,3′,5′,6′-tetrahydrospiro[1,4-benzoxazine-2,4′-pyran]-3(4H)-one | 1.6 g | BrC=1C=CC2=C(NC(C3(CCOCC3)O2)=O)C1 | C12H12BrNO3
